US05169860
Preparation of N-[[(4-chlorophenyl)amino]carbonyl]benzo[B]thiophene-3-sulfonamide
3-Benzo[B]thiophenesulfonamide (6.4 mmol) was reacted with 4-chlorophenylisocyanate (6.4 mmol) as described in Method A to obtain 1.1 g of the title product as a solid. 1H NMR (CD3SOCD3): δ10.94 (bs, 1 H), 8.99 (s, 1 H), 8.75 (s, 1 H), 8.27 (d, J =8 Hz, 1 H), 8.16 (d, J =8 Hz, 1 H), 7.60 (dd, J =8, 8 Hz, 1 H), 7.53 (dd, J =8, 8 Hz, 1 H), 7.38 (d, J =9 Hz, 2 H), 7.31 (d, J =9 Hz, 2 H).

reactant | 3-Benzo[B]thiophenesulfonamide | 6.4 mmol | S1C2=C(C(=C1)S(=O)(=O)N)C=CC=C2 | C8H7NO2S2
reactant | 4-chlorophenylisocyanate | 6.4 mmol | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | N-[[(4-chlorophenyl)amino]carbonyl]benzo[B]thiophene-3-sulfonamide | 1.1 g | ClC1=CC=C(C=C1)NC(=O)NS(=O)(=O)C=1C2=C(SC1)C=CC=C2 | C15H11ClN2O3S2
